US06313122B1
F. 4-Acetylamino-N-(4-methoxyphenyl)-2-[[1-(4-pyridylmethyl)piperidin-4-ylcarbonyl]amino]benzamide
To a stirred suspension of 4-acetylamino-N-(4-methoxyphenyl)-2-[(4-piperidinylcarbonyl)amino]benzamide (0.4 g, 0.97 mmol), 4-pyridinecarboxaldehyde (0.11 mL, 1.17 mmol) and acetic acid (0.085 mL, 1.46 mmol) in 1,2-dichloroethane (20 mL) was added sodium triacetoxyborohydride (0.31 g, 1.46 mmol). After stirring overnight, the white solid was filtered off and the filtrate was concentrated in vacuo. The residue was suspended in diethyl ether, sonicated, and filtered. The combined solids were then washed with water, filtered and dried in vacuo to give 0.37 g (76%) of the title compound as a white solid.

reactant | 4-acetylamino-N-(4-methoxyphenyl)-2-[(4-piperidinylcarbonyl)amino]benzamide | 0.97 mmol, 0.4 g | C(C)(=O)NC1=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C=C1)NC(=O)C1CCNCC1 | C22H26N4O4
reactant | 4-pyridinecarboxaldehyde | 1.17 mmol, 0.11 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | acetic acid | 1.46 mmol, 0.085 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.46 mmol, 0.31 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 4-Acetylamino-N-(4-methoxyphenyl)-2-[[1-(4-pyridylmethyl)piperidin-4-ylcarbonyl]amino]benzamide | 0.37 g, 76% | C(C)(=O)NC1=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C=C1)NC(=O)C1CCN(CC1)CC1=CC=NC=C1 | C28H31N5O4
